US05155108
To a solution of 10.0 g of 3-acetoxy-2,2-dimethyl-1-propanesulfonamide in 80 ml of methanol was added 9.2 g of 28 W/W % sodium methoxide methanol solution at room temperature with stirring. After stirring for 30 minutes, the reaction mixture was concentrated to dryness, and the residue was subjected to a silica gel column chromatography, eluting with chloroform-methanol (9:1). The corresponding fractions were concentrated to obtain 6.2 g of 3-hydroxy-2,2,-dimethyl-1-propanesulfonamide.

reactant | 3-acetoxy-2,2-dimethyl-1-propanesulfonamide | 10.0 g | C(C)(=O)OCC(CS(=O)(=O)N)(C)C | C7H15NO4S
reactant | sodium methoxide methanol | CO.C[O-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 3-hydroxy-2,2,-dimethyl-1-propanesulfonamide | 6.2 g | OCC(CS(=O)(=O)N)(C)C | C5H13NO3S
